US04684653
N-(4-[2-(2,4-diaminopyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamic acid
A solution of 0.38 g of diethyl N-(4-[2-(2,4-diaminopyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate in 50 mL of methanol containing 4.6 mL of 0.5N aqueous sodium hydroxide was stirred at room temperature for 72 hours. Acetic acid (5 mL) was added, and the resulting white precipitate collected by filtration. The filter cake was washed well with water, methanol, and ether and was dried under reduced pressure to yield 0.15 g (44%) of the title compound, which can be alternatively names as 5,10-dideazaaminopterin; mp >250° C.; NMR (TFA-d1) delta 2.2-2.7 (m, 2H), 2.28; 2.7-2.95 (m, 2H), 5.0-5.2 (m, 1H), 7.35 and 7.85 (AB q, 4H, J=9 Hz), 8.7 (s, 1H), 9.1 (s, 1H).

reactant | diethyl N-(4-[2-(2,4-diaminopyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate | 0.38 g | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)N | C25H30N6O5
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
reactant | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 50 mL | CO | CH4O
product | N-(4-[2-(2,4-diaminopyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamic acid | 0.15 g, 44% | NC=1N=C(C2=C(N1)N=CC(=C2)CCC2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2)N | C21H22N6O5
